US04495196
2,3-Bis(4-fluorophenyl)-1-methyl-5-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]-1H-pyrrole
A mixture of 2.1 g (0.005 mole) of 4,5bis(4-fluorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol, 1.4 g anhydrous potassium carbonate and 0.9 g (0.006 mole) of methyl iodide in 25 ml DMF was stirred at room temperature overnight. Another 1.4 g of potassium carbonate and 0.3 g of methyl iodide was added and stirring was continued another two hours. The mixture was poured into water and extracted with ether. The ether layers were backwashed with water three times, then dried and concentrated. The residue was purified by chromatography on silica gel, eluting with hexane/toluene (90/10) to give 1.7 g of the O,N-dimethylated product, m.p. 133°-134° (from ethanol/water). The infrared and nmr spectrum were consistent with the structure.

reactant | 4,5bis(4-fluorophenyl)-α,α-bis(trifluoromethyl)-1H-pyrrole-2-methanol | 0.005 mole, 2.1 g | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)C(O)(C(F)(F)F)C(F)(F)F | C19H11F8NO
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.006 mole, 0.9 g | CI | CH3I
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.3 g | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2,3-Bis(4-fluorophenyl)-1-methyl-5-[2,2,2-trifluoro-1-methoxy-1-(trifluoromethyl)ethyl]-1H-pyrrole | 1.7 g | FC1=CC=C(C=C1)C=1N(C(=CC1C1=CC=C(C=C1)F)C(C(F)(F)F)(C(F)(F)F)OC)C | C21H15F8NO
